US04409217
4-Nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer, 6.8 g), methanol (60 ml) tetrahydrofuran (60 ml), acetic acid (6 ml), water (10 ml) and 10% palladium carbon (3.5 g) were treated in a similar manner to that of Example 3 to give 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 3.8 g).

reactant | 4-Nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate | 6.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=C(SC1)NC=O | C27H28N6O11S2
reactant | methanol | 60 ml | CO | CH4O
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 3.5 g | [C].[Pd]
solvent | water | 10 ml | O | H2O
product | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid | 3.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H23N5O9S2
